US05635197
(+)-(4aR)-(10bR)-4-methyl-8-[2,8-bis(trifluoromethyl)-4quinolinyl]-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]-quinolin-3-one
A 15 mL round bottom flask was charged with (+)-(4aR)-(10bR)-4-methyl-10b-methyl-1,2,3,4,4a-,5,6,10b-octahydrobenzo[f]quinolin-3-one-8-boronic acid (178 mg, 0.65 mmol), tetrakis(triphenylphosphine)palladium(0) (23 mg, 0.02 mmol), 2,8-bis(trifluoromethyl)-4-bromoquinoline (224 mg, 0.65 mmol), 0.65 mL of 2M aqueous sodium carbonate and 2 mL of THF, fitted with a reflux condenser, and the stirred mixture was heated at 80°, under nitrogen, for 24 h. The mixture was cooled, diluted with ethyl acetate (75 mL) and washed with brine (2×25 mL). The combined organic extracts were dried over sodium sulfate, concentrated, and purified by silica gel chromatography (ethyl acetate eluent) to give 153 mg (48%) of the title compound as an amorphous foam. mp 100°-106°. FDMS: m/e=492. α[D]589 =+51.86 (c=0.47, chloroform).

reactant | 2,8-bis(trifluoromethyl)-4-bromoquinoline | 0.65 mmol, 224 mg | FC(C1=NC2=C(C=CC=C2C(=C1)Br)C(F)(F)F)(F)F | C11H4BrF6N
reactant | sodium carbonate | 2M, 0.65 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | THF | 2 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 75 mL | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.02 mmol, 23 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (+)-(4aR)-(10bR)-4-methyl-8-[2,8-bis(trifluoromethyl)-4quinolinyl]-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]-quinolin-3-one | 153 mg, 48% | CN1C(CC[C@@]2(C3=C(CC[C@@H]12)C=C(C=C3)C3=CC(=NC1=C(C=CC=C31)C(F)(F)F)C(F)(F)F)C)=O | C26H22F6N2O
